US07863220B2
Step A1: Preparation of 2-cyclopropyl-1,6-dihydro-6-oxo-4-pyrimidinecarboxylic acid
To a mixture of diethyl oxalacetate sodium salt (150 g, 714 mmol) in methanol (300 mL) and water (150 mL) warmed to 30° C. was added 50% aqueous sodium hydroxide (56 g, 700 mmol) in water (60 mL) over 30 minutes, over which time the temperature remained at 25-30° C. and the pH at 11-12. Then the stirred mixture was heated for an additional 30 min at 35° C. To this mixture was added cyclopropanecarboximidamide monohydrochloride (64 g, 530 mol) in portions over 15 minutes. The orange solution was heated to 50° C. over 30 minutes and held at that temperature for 3 h. The reaction mixture was cooled to 35° C., and concentrated hydrochloric acid (ca. 70 g, 0.7 mol) was added gradually (resulting in foaming) over 30 minutes at 30-40° C. until the pH was about 1.5-2.5. The mixture was concentrated with a rotary evaporator at 35-40° C. to remove alcohols, stirred for 3-4 h at 25° C. to complete crystallization of the product. After the mixture was cooled to 0° C. the solid was collected by filtration. The solid washed with water (2×60 mL), suction-dried, and then dried in a vacuum-oven at 60° C. to afford the title compound as a beige solid (ca. 60 g).

reactant | diethyl oxalacetate sodium salt | 714 mmol, 150 g | [Na].C(CC(=O)C(=O)OCC)(=O)OCC
reactant | sodium hydroxide | 700 mmol, 56 g | [OH-].[Na+]
reactant | cyclopropanecarboximidamide monohydrochloride | 530 mol, 64 g | Cl.C1(CC1)C(N)=N
reactant | hydrochloric acid | 0.7 mol, ca. 70 g | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | 2-cyclopropyl-1,6-dihydro-6-oxo-4-pyrimidinecarboxylic acid | ca. 60 g | C1(CC1)C=1NC(C=C(N1)C(=O)O)=O | C8H8N2O3
